US06737547B1
N-Acetyl-3-amino-1H-indene (Structure 3)
1-Indanone oxime (7.02 g, 0.048 moles), pyridine (250 ml) and acetic anhydride (170 ml) were stirred and heated under nitrogen at reflux for 16.5 hours. The cooled mixture was evaporated in vacuo and the residue agitated thoroughly with 1N sodium carbonate solution and ether (250 ml each). The liquid was filtered through filter-aid and the black solid treated again with sodium carbonate/ether and filtered. The combined ether extracts and washes were dried (MgSO4) and evaporated to a black-orange oil (8.6 g). This was applied to a column of basic alumina, allowed to stand for 2.5 hours and eluted with ethyl acetate/hexane 1:2 v/v. The appropriated fractions were evaporated to leave a crude solid (3 g). This was recrystallized from ethyl acetate/hexane to give the title product, mp. 139° C., (1.44 g, 17%) with the same IR spectrum as in Example 1.

reactant | 1-Indanone oxime | 0.048 moles, 7.02 g | C1(CCC2=CC=CC=C12)=NO | C9H9NO
reactant | acetic anhydride | 170 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | N-Acetyl-3-amino-1H-indene | C(C)(=O)NC1=CCC2=CC=CC=C12 | C11H11NO
